US08309580B2
(3) 2-ethyl-5-(1-ethylpropyl)thiophene-3-carbaldehyde
To a solution (40 mL) of ethyl 2-ethyl-5-(1-ethylpropyl)thiophene-3-carboxylate (1.98 g) synthesized above in tetrahydrofuran was added 1.5M diisobutylaluminum hydride-toluene solution (15.5 mL) at 0° C., and the mixture was stirred for 1 hr. 1N Hydrochloric acid was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and brine, dried over magnesium sulfate and concentrated under reduced pressure to give a colorless oil. To a solution of the obtained oil in tetrahydrofuran (40 mL) was added activated manganese dioxide (10.0 g), and the mixture was stirred at room temperature overnight. Manganese dioxide was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19, volume ratio) to give the title compound (1.40 g, 86%) as a yellow oil.

reactant | ethyl 2-ethyl-5-(1-ethylpropyl)thiophene-3-carboxylate | 40 mL, 1.98 g | C(C)C=1SC(=CC1C(=O)OCC)C(CC)CC | C14H22O2S
reactant | diisobutylaluminum hydride toluene | 1.5M, 15.5 mL | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 10.0 g | [O-2].[O-2].[Mn+4]
product | 2-ethyl-5-(1-ethylpropyl)thiophene-3-carbaldehyde | 1.40 g, 86% | C(C)C=1SC(=CC1C=O)C(CC)CC | C12H18OS
